US05482521
Tolyltriazole-Oleyl amine
Approximately 80 grams (0.6 mole) tolyltriazole (Sherwin Williams Co.), 167 grams (0.6 mole) oleyl amine (Armak-O, Armak Chemical Co.), 100 ml ethanol, and 100 ml toluene were charged to a 1 liter flask equipped with an agitator, Dean-Stark apparatus and dropping funnel. This mixture was stirred to a homogeneous mixture. Glyoxal (43.5 grams, 0.3 mole, 40% in water) was added dropwise and then stirred at room temperature for 12 hours. Water was then azeotropically removed by heating to 115° C. The dark brown product (261 grams) was isolated by filtration and removal of solvent under reduced pressure.

reactant | tolyltriazole | 0.6 mole, 80 grams | C1(=C(C=CC=C1)C=1N=NNC1)C | C9H9N3
reactant | oleyl amine | 0.6 mole, 167 grams | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | Glyoxal | 0.3 mole, 43.5 grams | C(=O)C=O | C2H2O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Tolyltriazole-Oleyl amine | 261 grams | C1(=C(C=CC=C1)NCCCCCCCC\C=C/CCCCCCCCC=1N=NNC1)C | C27H44N4
